* Z:\media\8C5E4AF45E4AD71C\Projekty\Laboratory_Supplier_With_Tft_Lcd_And_Touch_Panel\Analog_Circuit_Simulation_LTSpice\Transformer_Windings_Switching\Base_On_SN1500-APO.asc
DR1 0 N001 MBR20100CT
DR2 N001 N002 MBR20100CT
DR3 N005 N002 MBR20100CT
DR4 0 N005 MBR20100CT
V1 N001 +18V SINE(0 14 50)
V2 +18V N005 SINE(0 14 50)
C1 +18V 0 1000µF
D1 +18V N003 MBR20100CT
Q2 N006 N007 N008 0 BC547B
R2 N002 N006 1k
R3 N004 N006 10k
M1 N003 N004 N002 N002 IRF7207
R6 N003 0 1Meg
R4 N007 0 4k7
C3 +5V 0 470nF
R5 +Uwyj N007 10k
C2 N003 0 2200µF
V3 +5V 0 5V
V4 +Uwyj 0 PWL(1 14 2 15 3 16 4 17 5 18 6 19 7 20 8 19 9 18 10 17 11 16 12 15 13 14 14 13)
R8_LOAD +18V/+36V 0 100R
L1 N003 +18V/+36V 20mH
C4 +18V/+36V 0 2200µF
D2 0 N008 1N750
.model D D
.lib Z:\home\mwolowik\LTSpice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib Z:\home\mwolowik\LTSpice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\home\mwolowik\LTSpice\lib\cmp\standard.mos
.tran 0 15 10m 1
* Wymuszenia symulacji sumulacji
.backanno
.end
